US07589055B2
c) Synthesis of ethyl trans-1-methyl-3-oxo-3-(2,6,6-trimethyl-3-cyclohexen-1-yl)propyl carbonate
A solution of 3-hydroxy-1-(2,6,6-trimethyl-3-cyclohexen-1-yl)-1-butanone (2.00 g, 84% pure, 8.0 mmol) in pyridine (1.85 g, 23.4 mmol) was treated at 0° C. with ethyl chloroformate (1.24 g, 23.4 mmol). The reaction solution was stirred at room temperature for 36 hours, treated with aqueous 5% HCl and extracted twice with ether, washed with water, saturated aqueous NaHCO3, then with saturated aqueous NaCl, dried over Na2SO4 and concentrated. The oil thus obtained was purified by flash-chromatography (cyclohexane/AcOEt=98:2), using SiO2 (100 g). Yield: 2.06 g (78%).

reactant | 3-hydroxy-1-(2,6,6-trimethyl-3-cyclohexen-1-yl)-1-butanone | 8.0 mmol, 2.00 g | OC(CC(=O)C1C(C=CCC1(C)C)C)C | C13H22O2
reactant | pyridine | 23.4 mmol, 1.85 g | N1=CC=CC=C1 | C5H5N
reactant | ethyl chloroformate | 23.4 mmol, 1.24 g | ClC(=O)OCC | C3H5ClO2
reactant | HCl | Cl | ClH
product | ethyl trans-1-methyl-3-oxo-3-(2,6,6-trimethyl-3-cyclohexen-1-yl)propyl carbonate | C(OCC)(OC(CC([C@H]1[C@@H](C=CCC1(C)C)C)=O)C)=O | C16H26O4
